US07576108B2
e: (E)-3-Cyclohexyl-2-(4-methanesulfonyl-phenyl)-prop-2-en-1-ol
Add a solution of DIBAL in toluene (36.5 mL, 1.5 M, 54.6 mmol) dropwise over one h to a solution of (E)-3-cyclohexyl-2-(4-methanesulfonyl-phenyl)-acrylic acid ethyl ester (7.35 g, 21.8 mmol) in THF (200 mL) cooled to −78° C. Then allow the reaction mixture to slowly warm to r.t., and stir it for 18 h. Add methanol (50 mL), and then remove volatiles under vacuum. Partion the residue between ethly acetate (200 mL) and water (200 mL). Then extract the aqueous layer with ethyl acetate (2×300 mL). Combine the organic layers, wash them with saturated aqueous sodium chloride solution (200 mL), dry them over magnesium sulfate, and then filter them through celite®. Concentrate the filtrate to afford the title compound as an oil (6.0 g). MS (m/e): 295 (M+H).

reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | toluene | 54.6 mmol, 1.5 M, 36.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | (E)-3-cyclohexyl-2-(4-methanesulfonyl-phenyl)-acrylic acid ethyl ester | 21.8 mmol, 7.35 g | C(C)OC(\C(=C\C1CCCCC1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C18H24O4S
reactant | methanol | 50 mL | CO | CH4O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | ethly acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (E)-3-Cyclohexyl-2-(4-methanesulfonyl-phenyl)-prop-2-en-1-ol | 6.0 g | C1(CCCCC1)/C=C(/CO)\C1=CC=C(C=C1)S(=O)(=O)C | C16H22O3S
